US08623859B2
N-{[5-({4-[(2-Aminopyridin-3-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide
The title compound was prepared according to general procedure CD using 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide (42 mg, 0.10 mmol), 2-aminopyridine-3-carbaldehyde (15 mg, 0.12 mmol), STAB (42 mg, 0.2 mmol) DCE (0.8 mL) and a few 4 Å molecular sieves. The crude product was purified using prep method D.

reactant | 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | 0.10 mmol, 42 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCNCC1)C)C | C18H25N5O5S
reactant | 2-aminopyridine-3-carbaldehyde | 0.12 mmol, 15 mg | NC1=NC=CC=C1C=O | C6H6N2O
reactant | DCE | 0.2 mmol, 0.8 mL, 42 mg | ClCCCl | C2H4Cl2
product | N-{[5-({4-[(2-Aminopyridin-3-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide | NC1=NC=CC=C1CN1CCN(CC1)C(=O)C1=NN=C(O1)CN(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C24H31N7O5S
